US04367234
5-(2-Methylphenyl)oxazolidine-2,4-dione
By the procedure of Example 3, ethyl 1-hydroxy-1-(2-methylphenyl)methanecarboximidate hydrochloride (14.4 g.) in 500 ml. of tetrahydrofuran was converted to toluene recrystallized 5-(2-methylphenyl)oxazolidine-2,4-dione (9.1 g., 77%, m.p. 111°-113° C., m/e 191).

reactant | ethyl 1-hydroxy-1-(2-methylphenyl)methanecarboximidate hydrochloride | 14.4 g | Cl.OC(C(OCC)=N)C1=C(C=CC=C1)C
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(2-Methylphenyl)oxazolidine-2,4-dione | CC1=C(C=CC=C1)C1C(NC(O1)=O)=O | C10H9NO3
